US07662771B2
Dissolve 5′-chloro-2′-hydroxyacetophenone (15.3594 g, 90.03 mmol) in 100 mL of anhydrous acetonitrile in a pressure vessel. Add K2CO3 (13.7541 g, 99.52 mmol) and MeI (25.56 mL, 180.06 mmol) to the vessel. Seal the vessel and heat the reaction mixture to 85° C. for 18 hours. Cool the reaction and concentrate it in vacuo. Partition the residue between Et2O and H2O. Wash the organic layers with 2N NaOH (2×). Dry the combined organic layers with MgSO4. Filter off the drying agent and concentrate in vacuo to afford 13.15 g of 1-(5-chloro-2-methoxy-phenyl)-ethanone (79%).

reactant | 5′-chloro-2′-hydroxyacetophenone | 90.03 mmol, 15.3594 g | ClC=1C=CC(=C(C1)C(C)=O)O | C8H7ClO2
reactant | K2CO3 | 99.52 mmol, 13.7541 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 180.06 mmol, 25.56 mL | CI | CH3I
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-(5-chloro-2-methoxy-phenyl)-ethanone | 13.15 g, 79% | ClC=1C=CC(=C(C1)C(C)=O)OC | C9H9ClO2
